US07078414B2
d) 4-Cyclopropyl-3-methoxycarbonyl-1-(quinolin-4-yl)-1H-pyrrole
0.208 g (6.5 mmol) of sodium hydride at 75% by weight in liquid petroleum jelly is added to a solution of 1.07 g (6.5 mmol) of 4-cyclopropyl-3-methoxycarbonyl-1H-pyrrole in 20 mL of dimethylformamide at a temperature in the region of 20° C. under an argon atmosphere. After the reaction mixture has been stirred at a temperature in the region of 40° C. for 0.3 hour, 1.07 g (6.5 mmol) of 4-chloroquinoline and 10 mL of dimethylformamide are added. After stirring for 6 hours at a temperature in the region of 120° C., the reaction mixture is poured into 200 mL of brine and then extracted with 100 mL and then 50 mL of ethyl acetate. The organic extracts are combined and then concentrated to dryness under reduced pressure (2.7 kPa). The oily residue is purified by chromatography on silica gel [eluent: dichloromethane/ethyl acetate (75/25 by volume)]. After the fractions containing the expected product have been concentrated to dryness under reduced pressure (2.7 kPa), 1.2 g of 4-cyclopropyl-3-methoxycarbonyl-1-(quinolin-4-yl)-1H-pyrrole are obtained in the form of a thick clear oil, which is used directly in the following step.

reactant | sodium hydride | 6.5 mmol, 0.208 g | [H-].[Na+]
reactant | 4-cyclopropyl-3-methoxycarbonyl-1H-pyrrole | 6.5 mmol, 1.07 g | C1(CC1)C=1C(=CNC1)C(=O)OC | C9H11NO2
reactant | 4-chloroquinoline | 6.5 mmol, 1.07 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | brine | 200 mL | [Cl-].[Na+].O
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 4-Cyclopropyl-3-methoxycarbonyl-1-(quinolin-4-yl)-1H-pyrrole | C1(CC1)C=1C(=CN(C1)C1=CC=NC2=CC=CC=C12)C(=O)OC | C18H16N2O2
